US09079916B2
To a solution of 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(4-(6-methoxypyridin-3-yl)-5-methylpyrimidin-2-yl)cyclopropanecarboxamide (126 mg, 0.286 mmol) in 1,4-dioxane (1.50 mL), 4 M aqueous HCl (775 μL, 3.10 mmol) was added and stirred at 90° C. for one hour. The reaction was cooled to room temperature, quenched with Et3N and concentrated. The resulting mixture was dissolved in EtOAc and filtered. The solid was dissolved in water and the product was extracted using ethyl acetate (×3). The combined organic layers were dried over anhydrous Na2SO4 and evaporated under reduced pressure. The crude product was dissolved in DMSO (1 mL), filtered and purified by reverse phase preparative HPLC to yield 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(5-methyl-4-(6-oxo-1,6-dihydropyridin-3-yl)pyrimidin-2-yl)cyclopropanecarboxamide. ESI-MS m/z calc. 426.11. Found 427.3 (M+1)+. Retention time 1.34 minutes.

reactant | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(4-(6-methoxypyridin-3-yl)-5-methylpyrimidin-2-yl)cyclopropanecarboxamide | 0.286 mmol, 126 mg | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C(=N2)C=2C=NC(=CC2)OC)C)F | C22H18F2N4O4
reactant | HCl | 3.10 mmol, 4 M, 775 μL | Cl | ClH
solvent | 1,4-dioxane | 1.50 mL | O1CCOCC1 | C4H8O2
product | 1-(2,2-difluorobenzo[d][1,3]dioxol-5-yl)-N-(5-methyl-4-(6-oxo-1,6-dihydropyridin-3-yl)pyrimidin-2-yl)cyclopropanecarboxamide | FC1(OC2=C(O1)C=CC(=C2)C2(CC2)C(=O)NC2=NC=C(C(=N2)C2=CNC(C=C2)=O)C)F | C21H16F2N4O4
